US05217973
32 g of 6-n-propyl-2-methyl-5-(4-nitrobenzyl)-4-hydroxypyrimidine, prepared in Example 6, are suspended in 45 ml of phosphorus oxychloride. The mixture is brought to reflux for 6 hours and then concentrated under vacuum. The residue is taken up with water and extracted with dichloromethane. The organic phase is washed with potassium carbonate solution, then dried over magnesium sulphate and evaporated to dryness to give 24 g of 6-n-propyl-2-methyl-5-(4-nitrobenzyl)-4-chloropyrimidine in the form of crystals of melting point 65° C.

reactant | 6-n-propyl-2-methyl-5-(4-nitrobenzyl)-4-hydroxypyrimidine | 32 g | C(CC)C1=C(C(=NC(=N1)C)O)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H17N3O3
reactant | phosphorus oxychloride | 45 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-n-propyl-2-methyl-5-(4-nitrobenzyl)-4-chloropyrimidine | 24 g | C(CC)C1=C(C(=NC(=N1)C)Cl)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H16ClN3O2
